US04298751
A solution of about 27 millimoles of 1,4-bis-(6'-diazo-5'-oxohexyl)-benzene (prepared from 7.6 g of p-phenylene-δ,δ-divaleryl chloride) in 70 ml of methanol is added dropwise to a mixture of 58 ml of 5 M aqueous sodium chloride solution and 58 ml of 2 N aqueous hydrochloric acid solution. During the dropwise addition, the material in the reaction vessel must be cooled and stirred vigorously. After the addition, and when nitrogen evolution has ceased, stirring is continued for 4 hours at room temperature. 200 ml of water are added to the solution and the mixture is extracted with chloroform. The combined chloroform phases are washed with 200 ml of water and the pale yellow solution is dried over sodium sulfate. It is then filtered and concentrated on a rotary evaporator. The yellow solid residue is chromatographed on a silica gel column (length 50 cm, diameter 5 cm), using chloroform as the mobile phase. The bis-chloroketone migrates fastest. After concentrating the fractions, colorless 1,4-bis-(6'-chloro- 5'-oxohexyl)-benzene is obtained, and this is recrystallized from cyclohexane. The substance is obtained in 53% yield (4.9 g); melting point 86°-87° C.

reactant | 1,4-bis-(6'-diazo-5'-oxohexyl)-benzene | about 27 millimoles, 7.6 g | [N+](=[N-])=CC(CCCCC1=CC=C(C=C1)CCCCC(C=[N+]=[N-])=O)=O | C18H22N4O2
reactant | sodium chloride | 5 M, 58 ml | [Cl-].[Na+]
reactant | hydrochloric acid | 2 N, 58 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 1,4-bis-(6'-chloro- 5'-oxohexyl)-benzene | 53% yield | ClCC(CCCCC1=CC=C(C=C1)CCCCC(CCl)=O)=O | C18H24Cl2O2
